US04775674
A solution of 5-[[2-nitro-5-[4-(phenylsulfonyl)butoxy]phenyl]methylene]-2,4-imidazolidinedione (4.12 g, 9.1 mmol) in dimethylformamide (125 mL) was hydrogenated at 60 p.s.i. over 10% palladium on charcoal (1.25 g) in a low pressure hydrogenation apparatus. After 18 hours, the mixture was filtered through kieselguhr, the solvent evaporated and the residue dissolved in dimethylformamide (125 mL) and resubjected to hydrogenation over 10% palladium on charcoal (1.2 g). After 4 hours, the mixture was filtered through kieselguhr, concentrated in vacuo and the residue dissolved in refluxing methanol (150 mL). Iodine (2.35 g, 9 mmol) was added and the mixture refluxed for 1 hour, cooled and diluted with 10% sodium thiosulfate solution and 10% potassium carbonate solution. The mixture was stirred for 10 minutes, filtered and the solid washed with water and dried at 90° C. in vacuo. Crystallization from acetonitrile/dimethylformamide/water afforded 7-[4-(phenylsulfonyl)butoxy]-1,3-dihydro-2H-imidazo[4,5-b]quinolin-2-one as a partial hydrate (1.90 g, 51%), m.p. 258° C. (dec.).

reactant | 5-[[2-nitro-5-[4-(phenylsulfonyl)butoxy]phenyl]methylene]-2,4-imidazolidinedione | 9.1 mmol, 4.12 g | [N+](=O)([O-])C1=C(C=C(C=C1)OCCCCS(=O)(=O)C1=CC=CC=C1)C=C1C(NC(N1)=O)=O | C20H19N3O7S
reactant | Iodine | 9 mmol, 2.35 g | II | I2
solvent | dimethylformamide | 125 mL | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 1.25 g | [Pd] | Pd
solvent | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 7-[4-(phenylsulfonyl)butoxy]-1,3-dihydro-2H-imidazo[4,5-b]quinolin-2-one | C1(=CC=CC=C1)S(=O)(=O)CCCCOC1=CC=2C=C3C(=NC2C=C1)NC(N3)=O | C20H19N3O4S
